US08198267B2
1-(5-Chloro-2-methyl-4-nitrophenyl)-3-methylpyridin-2(1H)-one
1.50 g (13.8 mmol) of 2-hydroxy-3-methylpyridine in 70 ml of DMF are admixed at 0° C. with 2.31 g (20.6 mmol) of potassium tert-butoxide, and the mixture is stirred at room temperature for 30 min. 2.87 g (15.1 mmol) of 2-chloro-4-fluoro-5-methylnitrobenzene are added while continuing to stir at RT. After 17 h, the mixture is admixed with 1000 ml of water and then extracted three times with ethyl acetate. The combined organic phases are dried over sodium sulfate and, after filtration, the solvents are removed under reduced pressure. The residue is purified by chromatography on silica gel (2:1 cyclohexane/ethyl acetate). This affords 2.15 g (56% of theory) of the desired compound.

reactant | 2-hydroxy-3-methylpyridine | 13.8 mmol, 1.50 g | OC1=NC=CC=C1C | C6H7NO
reactant | potassium tert-butoxide | 20.6 mmol, 2.31 g | CC(C)([O-])C.[K+]
reactant | 2-chloro-4-fluoro-5-methylnitrobenzene | 15.1 mmol, 2.87 g | ClC1=C(C=C(C(=C1)F)C)[N+](=O)[O-] | C7H5ClFNO2
reactant | water | 1000 ml | O | H2O
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
product | 1-(5-Chloro-2-methyl-4-nitrophenyl)-3-methylpyridin-2(1H)-one | ClC=1C(=CC(=C(C1)N1C(C(=CC=C1)C)=O)C)[N+](=O)[O-] | C13H11ClN2O3
